US07935696B2
N-Cyclopropyl-3-(2-mercaptoacetamido)-4-methylbenzamide
A solution of mercaptoacetic acid (1.65 mL, 24.2 mmol) and 5.0 g (22 mmol) of 3-amino-N-cyclopropyl-4-methylbenzamide hydrochloride (prepared as described in WO 04/071440) in toluene (40 mL) was refluxed for 16 h. At this time, an additional 0.8 mL of mercaptoacetic acid was added and the mixture was continued at reflux for an additional 2 days. After cooling to rt, the solid was collected by vacuum filtration and was rinsed with EtOAc (2×50 mL). The resulting solid was then slurried in water (50 mL) and the solid was recollected by vacuum filtration and rinsed with add'n water. The resulting solid was air dried in the funnel then under vacuum overnight to afford 1.86 g (32%) of a white solid as compound a. HPLC Ret time=1.83 min. LCMS [M+H]+ 265.37.

reactant | mercaptoacetic acid | 24.2 mmol, 1.65 mL | SCC(=O)O | C2H4O2S
reactant | 3-amino-N-cyclopropyl-4-methylbenzamide hydrochloride | 22 mmol, 5.0 g | Cl.NC=1C=C(C(=O)NC2CC2)C=CC1C
reactant | mercaptoacetic acid | 0.8 mL | SCC(=O)O | C2H4O2S
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | N-Cyclopropyl-3-(2-mercaptoacetamido)-4-methylbenzamide | 1.86 g, 32% | C1(CC1)NC(C1=CC(=C(C=C1)C)NC(CS)=O)=O | C13H16N2O2S
